US04164407
Step C - 2-bromomethyl-4-chlorophenylisocyanate
2.3 g of 2-bromomethyl-3-chloroaniline hydrobromide are added to 30 ml. of 12% phosgene in benzene. The mixture is heated to reflux in a 250 ml. flask fitted with a Dean-Stark trap and condenser. Small amounts of phosgene/benzene are carefully added until the hydrobromide is no longer detected (as indicated by following the reaction on thin layer chromatographic plates). The benzene solvent is removed from the reaction mixture by evaporation, then the 2-bromomethyl-4-chloroisocyanate product is recovered by vacuum distillation (at about 50° to 56° at about 0.05 to 0.03 mm Hg).

reactant | 2-bromomethyl-3-chloroaniline hydrobromide | 2.3 g | Br.BrCC1=C(N)C=CC=C1Cl
reactant | phosgene | C(=O)(Cl)Cl | CCl2O
reactant | phosgene benzene | C(=O)(Cl)Cl.C1=CC=CC=C1
reactant | hydrobromide | Br | BrH
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 2-bromomethyl-4-chlorophenylisocyanate | BrCC1=C(C=CC(=C1)Cl)N=C=O | C8H5BrClNO
